US08461107B2
Intermediate A8: (1R,2R)-2-pent-4-en-1-ylcyclopentyl acetate
AMANO LIPASE PS (7.0 g, 64.7 mmol) was added to a solution of trans-2-pent-4-en-1-ylcyclopentanol (10.0 g, 64.7 mmol) and vinyl acetate (19.5 g, 129.4 mmol) in Et2O (275 mL). The mixture was stirred for 16 hours, then filtered through CELITE. The filtrate was concentrated to afford a residue that was purified by column chromatography on SiO2 (gradient elution, 0-100% Et2O/petroleum ether) to afford in the first fractions the title compound (5.43 g, 43%). 1H NMR (300 MHz, CDCl3) δ 5.89-5.72 (m, 1H), 5.00 (d, J=18.1 Hz, 1H), 495 (d, J=11.0 Hz, 1H), 4.82-4.73 (m, 1H), 2.11-1.98 (m, 2H), 2.03 (s, 3H), 1.98-1.85 (m, 3H), 1.71-1.60 (m, 3H), 1.50-1.35 (m, 3H), 1.29-1.14 (m, 2H); [α]D=−36.1 (c=0.73 in CHCl3). The later fractions contained enantio-enriched (1S,2S)-2-pent-4-en-1-ylcyclopentanol.

reactant | trans-2-pent-4-en-1-ylcyclopentanol | 64.7 mmol, 10.0 g | C(CCC=C)[C@H]1[C@@H](CCC1)O | C10H18O
reactant | vinyl acetate | 129.4 mmol, 19.5 g | C(C)(=O)OC=C | C4H6O2
solvent | Et2O | 275 mL | CCOCC | C4H10O
product | (1R,2R)-2-pent-4-en-1-ylcyclopentyl acetate | 5.43 g, 43% | C(C)(=O)O[C@H]1[C@@H](CCC1)CCCC=C | C12H20O2
